US06066641
b) 1-(3-Chlorobenzyl)-3-cyanoacetyl-urea
3.76 g of 98% cyanoacetic acid and 14 ml of acetic anhydride were heated for 1 hour at 65° C. A solution of 7.73 g of (3-chlorobenzyl)urea in 55 ml THF was added and the mixture kept for 4 hours at 65° C. The THF was removed in vacuo and the residue diluted with 50 ml of toluene. The solid was collected and washed to give the title compound (8.94 g) as a white solid.

reactant | cyanoacetic acid | 3.76 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | 14 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (3-chlorobenzyl)urea | 7.73 g | ClC=1C=C(CNC(=O)N)C=CC1 | C8H9ClN2O
solvent | THF | 55 ml | C1CCOC1 | C4H8O
product | 1-(3-Chlorobenzyl)-3-cyanoacetyl-urea | 8.94 g | ClC=1C=C(CNC(=O)NC(CC#N)=O)C=CC1 | C11H10ClN3O2
